US04272437
trans-ethyl hydrogen cyclopropane-1,2-dicarboxylate
A solution of ethyl 2-formyl-1-cyclopropanecarboxylate (6.465 g, 45.5 mmol) in dry DMF (25 ml) was treated with solid pyridinium dichromate1 (34.23 g, 90.92 mmol, added in ~5 g portions, addition time of 15 min). The resulting mixture was stirred at room temperature for 15 h. After dilution with water (200 ml), the mixture was extracted with ether (5×20 ml) and the combined organic extracts were washed with 1N HCl and brine. The organic phase was then extracted with saturated NaHCO3 (4×20 ml). The basic extracts were acidified with 1-% HCl and extracted with ether (5×20 ml). The combined ether extracts were dried on anhydrous sodium sulfate and evaporated under vacuum to give a clear oil which crystallized on standing: 4.849 g (67%); mp 50-55 (Lit.2 mp 55°-58° C.); ir νmax (CH2Cl2): 3000 (broad OH of acid), 1725 (C=O of ester) and 1700 cm-1 (C=O of acid); 1Hmr (CDCl3) δ: 11.36 (1H, s, COOH), 4.15 (2H, q, J=7, CH2 --CH3), 2.3-1.9 (2H, m, cyclopropyl), 1.5 (2H, d, J=7, cyclopropyl) and 1.27 ppm (3H, t, J=7, CH2 --CH3).

reactant | ethyl 2-formyl-1-cyclopropanecarboxylate | 45.5 mmol, 6.465 g | C(=O)C1C(C1)C(=O)OCC | C7H10O3
reactant | pyridinium | [NH+]1=CC=CC=C1
reactant | DMF | 25 ml | CN(C)C=O | C3H7NO
product | trans-ethyl hydrogen cyclopropane-1,2-dicarboxylate | [C@@H]1([C@@H](C1)C(=O)O)C(=O)OCC | C7H10O4
